** current_source_tb.spice

* ============================================================
* ===================== TESTBENCH =============================
* ============================================================

V1 VDD GND PULSE(0 1.2 0 1 0 1 2)

* -------- CURRENT MEASUREMENT (CORRECT) --------
Vmeas_IBIAS VDD IBIAS 0
Vmeas_VCO IBIASVCO GND 0

* -------- DUT --------
x1 IBIASVCO IBIAS VDD GND Current_source

* -------- MODELS --------
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib cornerMOSlv.lib mos_tt


.control
save all
alter V1 dc 1.2

op
print I(Vmeas_IBIAS) I(Vmeas_VCO)

dc TEMP 100 -50 -5
print I(Vmeas_IBIAS) I(Vmeas_VCO)

write bgr_temp.raw
.endc


.control
save all
tran 1m 2

print I(Vmeas_IBIAS) I(Vmeas_VCO)

write bandgap_transient.raw
.endc


* ============================================================
* ================= CURRENT SOURCE ============================
* ============================================================

.subckt Current_source IBIASVCO IBIAS VDD GND

XM8 GND v- net1 GND sg13_lv_nmos w=150n l=10u ng=1
XM6 net1 net1 VDD VDD sg13_lv_pmos w=1u l=1u ng=1
XM7 net2 net1 VDD VDD sg13_lv_pmos w=1u l=1u ng=1
XM9 v- net2 VDD VDD sg13_lv_pmos w=200n l=4u ng=1

XM1 GND v+ v- GND sg13_lv_nmos w=7.14u l=5u ng=4
XM2 GND net4 net4 GND sg13_lv_nmos w=21u l=5u ng=8

XM3 v- Vo1 VDD VDD sg13_lv_pmos w=15u l=5u ng=8
XM4 v+ Vo1 VDD VDD sg13_lv_pmos w=15u l=5u ng=8
XM5 VBG Vo1 VDD VDD sg13_lv_pmos w=16u l=5u ng=8

XC3 VBG GND cap_cmim w=72.965e-6 l=72.965e-6

XR3 v+ net4 sub! rppd w=0.5e-6 l=194.345e-6 m=1 b=0
XR1 v+ GND sub! rppd w=0.6e-6 l=194.345e-6 m=1 b=0
XR2 VBG GND sub! rppd w=0.5e-6 l=192.395e-6 m=1 b=0

XC1 net2 GND cap_cmim w=18.195e-6 l=18.195e-6

x1 VDD net3 v+ v- Vo1 GND two_stage_OTA
XR4 net3 GND sub! rppd w=0.5e-6 l=15e-6 m=1 b=0

* -------- BIAS CURRENT GENERATION --------

XM12 IBIAS net5 GND GND sg13_lv_nmos w=2u l=0.13u ng=1
XM11 net5 net5 GND GND sg13_lv_nmos w=2u l=0.13u ng=1
XM10 net5 VBG VDD VDD sg13_lv_pmos w=3.94u l=0.13u ng=1

XM15 IBIASVCO net6 VDD VDD sg13_lv_pmos w=2.5u l=0.13u ng=1
XM14 net6 net6 VDD VDD sg13_lv_pmos w=2.5u l=0.13u ng=1
XM13 net6 VBG GND GND sg13_lv_nmos w=2.3u l=0.13u ng=1

.ends Current_source


* ============================================================
* ================= TWO STAGE OTA =============================
* ============================================================

.subckt two_stage_OTA vdd iout v+ v- vout vss

XM4 vss net1 net3 vss sg13_lv_nmos w=720n l=9.75u ng=1
XM3 vss net1 net1 vss sg13_lv_nmos w=720n l=9.75u ng=1

XM1 net1 v- net2 vdd sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2
XM2 net3 v+ net2 vdd sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2

XM5 net2 iout vdd vdd sg13_lv_pmos w=5.3u l=1.95u ng=1
XM7 vout iout vdd vdd sg13_lv_pmos w=75u l=2.08u ng=8
XM9 iout iout vdd vdd sg13_lv_pmos w=75u l=2.08u ng=8

XM6 vss net3 vout vss sg13_lv_nmos w=28.8u l=9.75u ng=4

XC2 net3 vout cap_cmim w=22.295e-6 l=22.295e-6

.ends two_stage_OTA


.GLOBAL GND
.end